US04080340
1-Methyl-2-(5-aminomethylhexylisoxazol-3-yl)-5-nitroimidazole
The product prepared above is treated in a similar fashion with hexyl chloride in dimethylformamide for two hours. The recrystallized product is identified as 1-methyl-2-(5-methylhexylaminohexylisoxazol-3-yl)-5-nitroimidazole.

reactant | hexyl chloride | C(CCCCC)Cl | C6H13Cl
reactant | 1-methyl-2-(5-methylhexylaminohexylisoxazol-3-yl)-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C1=NOC=C1CCCCCCNCCCCC(C)C | C20H33N5O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Methyl-2-(5-aminomethylhexylisoxazol-3-yl)-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C1=NOC=C1CCCCC(C)CN | C14H21N5O3
